US04156079
C. N-[[2-[2-(Dimethylamino)propoxyl]-5-methoxyphenyl]methyl]benzeneethanamine
N-[[2-[2-(Dimethylamino)propoxyl]-5-methoxyphenyl]methylene]benzeneethanamine (39.5 g) is reduced with 13.0 g of sodium borohydride in 200 ml of methanol following the procedure described in Example 1C yielding 29.7 g of the title compound, boiling point 205°-210° C. at 0.4-0.5 mm of Hg.

reactant | N-[[2-[2-(Dimethylamino)propoxyl]-5-methoxyphenyl]methylene]benzeneethanamine | 39.5 g | CN(C(COC1=C(C=C(C=C1)OC)C=NCCC1=CC=CC=C1)C)C | C21H28N2O2
reactant | sodium borohydride | 13.0 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | N-[[2-[2-(Dimethylamino)propoxyl]-5-methoxyphenyl]methyl]benzeneethanamine | 29.7 g | CN(C(COC1=C(C=C(C=C1)OC)CNCCC1=CC=CC=C1)C)C | C21H30N2O2
